US04434182
Upon a dry argon atmosphere, a mixture of 1.6 g (0.066 mole) of magnesium, 7.9 g (0.066 mole) of cyclopropylbromide, 60 ml of anhydrous diethyl ether, and 60 ml of anhydrous tetrahydrofuran was heated at reflux for 2.5 hours. The stirred mixture was cooled to room temperature, and a solution of 11.1 g (0.066 mole) of (4-difluoromethoxybenzonitrile) in 40 ml of anhydrous diethyl ether and 40 ml of anhydrous tetrahydrofuran was added during one hour. After complete addition, the mixture was heated at reflux for two hours, then stirred at room temperature for approximately 18 hours. A 100 ml portion of 2 N hydrochloric acid was added slowly to the mixture, and the whole was stirred for one hour. The mixture was extracted with three 100 ml portions of diethyl ether. The ether extracts were combined, dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to give an oil. The oil was subjected to column chromatography on silica gel, eluting with toluene/ethyl acetate (95:5), to give 8.3 g of (4-difluoromethoxyphenyl)(cyclopropyl) ketone.

reactant | magnesium | 0.066 mole, 1.6 g | [Mg] | Mg
reactant | cyclopropylbromide | 0.066 mole, 7.9 g | C1(CC1)Br | C3H5Br
reactant | 4-difluoromethoxybenzonitrile | 0.066 mole, 11.1 g | FC(OC1=CC=C(C#N)C=C1)F | C8H5F2NO
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (4-difluoromethoxyphenyl)(cyclopropyl) ketone | 8.3 g | FC(OC1=CC=C(C=C1)C(=O)C1CC1)F | C11H10F2O2
